US04005103
The procedure of Example IX using 36 g of 1-cyclopropyl-3-(m-trifluoromethylphenyl)prop-2-en-1-one, 14 ml of nitroethane and 1.85 g of sodium in 150 ml of methanol gives 36 g of 1-cyclopropyl-3-(m-trifluoromethylphenyl)-4-nitropentanone as an oily residue which is used in the crude state for the remainder of the operations.

reactant | 1-cyclopropyl-3-(m-trifluoromethylphenyl)prop-2-en-1-one | 36 g | C1(CC1)C(C=CC1=CC(=CC=C1)C(F)(F)F)=O | C13H11F3O
reactant | nitroethane | 14 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium | 1.85 g | [Na] | Na
reactant | methanol | 150 ml | CO | CH4O
product | 1-cyclopropyl-3-(m-trifluoromethylphenyl)-4-nitropentanone | 36 g | C1(CC1)CC(C(C(C)[N+](=O)[O-])C1=CC(=CC=C1)C(F)(F)F)=O | C15H16F3NO3
